US08580824B2
2-Ethyl-4-[3-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-5-yl]-6-methyl-phenol is prepared in analogy to Example 10 by coupling and cyclising 2-ethyl-N-hydroxy-6-methyl-isonicotinamidine with 3-ethyl-4-hydroxy-5-methyl-benzoic acid; LC-MS: tR=0.83 min; [M+1]+=324.15.

reactant | 2-ethyl-N-hydroxy-6-methyl-isonicotinamidine | C(C)C=1C=C(C(=N)NO)C=C(N1)C | C9H13N3O
reactant | 3-ethyl-4-hydroxy-5-methyl-benzoic acid | C(C)C=1C=C(C(=O)O)C=C(C1O)C | C10H12O3
product | 2-Ethyl-4-[3-(2-ethyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-5-yl]-6-methyl-phenol | C(C)C1=C(C(=CC(=C1)C1=NC(=NO1)C1=CC(=NC(=C1)C)CC)C)O | C19H21N3O2
